US05629254
Synthesis of 2-ethyl-4-(9-phenanthryl)indene
A 300-ml three-necked round flask equipped with a stirring bar, a Dimroth condenser, a dropping funnel and a thermometer was charged with 12.3 g (36.3 mmol) of 2-ethyl-1-hydroxy-4-(9-phenanthryl)indane, 19.7 ml (142 mmol) of triethylamine and 61.5 ml of methylene chloride. To the mixture was gradually dropwise added a solution containing 3.3 ml (42.6 mmol) of methansulfonyl chloride dissolved in 5 ml of methylene chloride under a nitrogen atmosphere at 0° C. After the addition was completed, the temperature was elevated to room temperature, and the reaction mixture was stirred for additional 4 hours. To the reaction mixture was added 80 ml of a saturated aqueous solution of sodium bicarbonate. The organic phase was separated, and the aqueous phase was extracted with 50 ml of methylene chloride two times. The combined organic phase was washed with water, and then a saturated aqueous solution of sodium chloride, followed by drying over anhydrous Na2SO4. The solvent was evaporated under reduced pressure. The residue was chromatographed on silica gel (eluting with hexane, and hexane/ethyl acetate (100/3 parts by volume)) to give 9.61 g of the desired product (mixture of two isomers) as a pasty pale yellow-green liquid (yield: 83%).

reactant | 2-ethyl-1-hydroxy-4-(9-phenanthryl)indane | 36.3 mmol, 12.3 g | C(C)C1C(C2=CC=CC(=C2C1)C=1C2=CC=CC=C2C=2C=CC=CC2C1)O | C25H22O
reactant | triethylamine | 142 mmol, 19.7 ml | C(C)N(CC)CC | C6H15N
reactant | methansulfonyl chloride | 42.6 mmol, 3.3 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 61.5 ml | C(Cl)Cl | CH2Cl2
product | 2-ethyl-4-(9-phenanthryl)indene | 9.61 g, yield: 83% | C(C)C=1CC2=CC=CC(=C2C1)C=1C2=CC=CC=C2C=2C=CC=CC2C1 | C25H20
